data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_289176_1,[C:1]([C:2]([O:6][H:8])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])([N:5]([H:10])[H:11])[H:9]>>[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([C:2]([O:6][H:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[O:7]1,57.49029499998912
MR_250824_0,[C:1]([N:3](/[C:4](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])[O:7][H:9])/[C:5](=[N:8]/[H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:4](/[C@:6]([C:2]([H:16])([H:17])[H:18])([C:5]([N:8][H:10])[H:11])[H:12])[O:7][H:9])([H:13])([H:14])[H:15],49.29263499999806
MR_456262_1,[C:1]([C:2]([N:5]([H:13])[H:14])=[O:7])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[C:6](=[O:8])[H:15]>>[C:1](=[C:2]([N:5]([H:13])[H:14])[O:7][C:6](=[O:8])[H:15])([N:3]([H:9])[H:10])[N:4]([H:11])[H:12],54.83283250002842
MR_527727_0,[C:1](/[C:4](=[C:8](/[C:3](=[C:2]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[H:17])[O:9][H:10])([H:18])([H:19])[H:20]>>[C:1]([C@:4]1([O:9][H:10])[C:2]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[C:3]([N:7]([H:15])[H:16])=[C:8]1[H:17])([H:18])([H:19])[H:20],47.22000249998757
MR_704637_0,[C:1](/[C:4]([C:3]([N:2]([O:5][H:8])[H:9])=[O:7])=[N:6]/[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:4]([C:3]([N:2]=[O:5])([O:7][H:8])[H:9])=[N:6]/[H:10])([H:11])([H:12])[H:13],64.89542250001932
MR_356047_1,[C:1](/[N:9]=[C:5]([C:2]([H:16])([H:17])[H:18])/[C:6]([C:3]([H:19])([H:20])[H:21])=[C:4](\[N:7]([H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([N:9]1[C:4]([N:7]([H:11])[H:12])([O:8][H:10])[C:6]([C:3]([H:19])([H:20])[H:21])=[C:5]1[C:2]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15],35.95386750000344
MR_632293_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3](/[C:5](=[N:7]\[O:6][H:9])[H:13])=[O:8])([N:4]([H:11])[H:12])[H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:4]([H:11])[H:12])([C:5]1([H:13])[C:3](=[O:8])[N:7]1[O:6][H:9])[H:10],63.67807249998961
MR_112462_1,[C@@:1]([C:2]([H:12])([H:13])[H:14])([C:4]([N:6][N:3]([H:9])[H:10])[H:11])([O:5][H:7])[H:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](\[N:6]([N:3]([H:9])[H:10])[O:5][H:7])[H:11])[H:8],66.71329000003098
MR_129844_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([N:4]([H:9])[H:10])=[O:7])([N:5]=[O:6])[H:8]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:3](\[N:4]([H:9])[H:10])[O:7][N:5]=[O:6])[H:8],33.394295000009606
MR_470861_1,[C:1]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])([N:3]([N:4]([H:11])[H:12])[H:10])([O:6][H:8])[O:7][H:9]>>[C:1]([N:3]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])[H:10])([N:4]([H:11])[H:12])([O:6][H:8])[O:7][H:9],58.547004999996375
MR_420351_1,[C:1]([C:3]([O:6][H:9])=[O:7])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([N:5]([H:11])[H:12])[H:10]>>[C:1](=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:8][C:3]([O:6][H:9])=[O:7])(\[N:5]([H:11])[H:12])[H:10],59.39287500000091
MR_34750_1,[C:1]([N:5]([N:4]([C:7](=[C:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[H:11])[O:8][H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:5]([C:6]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])/[C:7](=[N:4]/[O:8][H:9])[H:11])[H:10])([H:12])([H:13])[H:14],49.83416749998625
MR_549334_1,[C:1]([C:3]([H:19])([H:20])[H:21])(/[C:4](=[C:6](\[C:2]([H:16])([H:17])[H:18])[O:9][H:12])[O:8][H:11])([C:5]([N:7]([H:14])[H:15])=[O:10])[H:13]>>[C:1](\[C:3]([H:19])([H:20])[H:21])(=[C:4](\[C:6]([C:2]([H:16])([H:17])[H:18])([C:5]([N:7]([H:14])[H:15])=[O:10])[O:9][H:12])[O:8][H:11])[H:13],71.69501249997325
MR_229628_2,[C:1](/[C:2]([N:5]([H:13])[H:14])=[C:7](/[N:6]([H:15])[H:16])[H:17])([N:4]([H:11])[H:12])=[N:8]\[N:3]([H:9])[H:10]>>[C:1]1([N:4]([H:11])[H:12])=[C:2]([N:5]([H:13])[H:14])[C:7]([N:6]([H:15])[H:16])([H:17])[N:8]1[N:3]([H:9])[H:10],38.848525000043
MR_365954_1,[C:1]([N:4]([H:8])[H:9])([O:6][O:5][C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([H:10])[H:11]>>[C:1]([N:4]([H:8])[H:9])([O:7][C:3]1([C:2]([H:12])([H:13])[H:14])[O:5][O:6]1)([H:10])[H:11],57.71556750002674
MR_473991_1,[C:1](/[C:3](=[C:2]([C:4](\[N:6]([H:13])[H:14])=[C:8](/[N:7]([H:15])[H:16])[H:17])/[N:5]([H:11])[H:12])[O:9][H:10])([H:18])([H:19])[H:20]>>[C:1]([C:3]1([O:9][H:10])[C:2]([N:5]([H:11])[H:12])=[C:4]([N:6]([H:13])[H:14])[C:8]1([N:7]([H:15])[H:16])[H:17])([H:18])([H:19])[H:20],42.75659499998511
MR_570458_1,[C:1]1([N:7]([H:10])[H:11])([H:9])[C:2]([H:14])([H:15])[C:5]([N:8]([H:12])[H:13])=[C:6]([C:4]([H:18])([H:19])[H:20])[C:3]1([H:16])[H:17]>>[C:1]1([N:7]([H:10])[H:11])([H:9])[C:2]([H:14])([H:15])[C:5]1([C:6](=[C:3]([H:16])[H:17])[C:4]([H:18])([H:19])[H:20])[N:8]([H:12])[H:13],71.39004749999415
MR_647823_1,[C:1]([N:2]([N:3]([C:4]([O:6][H:9])=[O:8])[H:10])/[C:5](=[N:7]\[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:2]([N:3](/[C:5](=[N:7]\[H:11])[H:12])[H:10])[C:4]([O:6][H:9])=[O:8])([H:13])([H:14])[H:15],71.6140649999636
MR_504876_1,[C:1]([C:5]12[N:2]([H:11])[C:4]1([C:6](=[O:9])[H:12])[N:8]=[C:3]2[O:7][H:10])([H:13])([H:14])[H:15]>>[C:1]([c:5]1[n:2]([H:11])[c:4]([C:6](=[O:9])[H:12])[n:8][c:3]1[O:7][H:10])([H:13])([H:14])[H:15],22.81464500000439
